US04327102
Thiophenol (21 ml) was added to a solution of sodium (4.6 g) in ethanol (100 ml). To the resulting solution was added 2-picolyl chloride, hydrochloride (15 g) and the mixture was heated at reflux for 2 hours. Precipitated sodium chloride was removed by filtration and the solution was acidified with ethereal HCl. The solvent was removed by evaporation and the residue induced to crystallise by trituration with ether. Recrystallisation from ethanol-ether gave 2-((phenylthio)methylpyridine, hydrochloride (5.0 g) mp 142°-4° C. (Found: C,60.6; H,5.25; N,5.5 C12H11NS,HCl requires C,60.6; H,5.1; N,5.9%).

reactant | Thiophenol | 21 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium | 4.6 g | [Na] | Na
reactant | 2-picolyl chloride, hydrochloride | 15 g | Cl.N1=C(C=CC=C1)CCl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (phenylthio)methylpyridine, hydrochloride | 5.0 g | Cl.C1(=CC=CC=C1)SCC1=NC=CC=C1 | InChI=1S/C12H11NS.ClH/c1-2-7-12(8-3-1)14-10-11-6-4-5-9-13-11;/h1-9H,10H2;1H
